US06403055B1
To a suspension of tryptophan (20.08 g; 98.32 mmol) in H2O, cooled to 0° C., was added 1N NaOH (98 mL; 98 mmol) and the solution became clear. Maintaining the temperature at 0° C., 1N NaOH (108 mL; 108 mmol) and benzyl chloroformate (CBZCl, commercial product) (15.38 mL; 107.7 mmol) were simultaneously dropped in the reaction mixture. After the addition the mixture was kept at 0° C. for 30 min and then allowed to rise to r. t. The reaction was monitored by HPLC (Chromatographic method of Example 3, A). After further 3 h the pH was corrected to 9.5 by addition of 1N NaOH and the mixture was washed with Et2O (200 mL). The aqueous layer was acidified to pH 2 using 2N HCl and the precipitate was filtered through a G3 septum, washed with cold water (2×200 mL) and dried over P2O5 under vacuum (2 kPa). N-[(Phenylmethoxy)carbonyl]-L-tryptophan (33.96 g) was obtained and used in the following step without further purification.

reactant | tryptophan | 98.32 mmol, 20.08 g | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | NaOH | 98 mmol, 1N, 98 mL | [OH-].[Na+]
reactant | NaOH | 108 mmol, 1N, 108 mL | [OH-].[Na+]
reactant | benzyl chloroformate | 107.7 mmol, 15.38 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | NaOH | 1N | [OH-].[Na+]
solvent | H2O | O | H2O
product | N-[(Phenylmethoxy)carbonyl]-L-tryptophan | 33.96 g | C1(=CC=CC=C1)COC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C19H18N2O4
